US05505931
3-(Isothiocyanatomethyl)furan (0.659 g, 4.734 mmol) and maleic anhydride (0.475 g, 4.844 mmol) were dissolved in ether (17 mL) and stirred at room temperature for 16 hours under a positive pressure. The reaction mixture evaporated to dryness overnight leaving a light colored solid. The solid was triturated with ether (3.0 mL), collected by filtration, washed with ether (8×1.0 mL), and dried to afford the title 4-isothiocyanatophthalic anhydride as off-white crystals in a yield of 0.842 g, (75 percent of theoretical) which melted at 128°-129° C.; 1H NMR (300 MHz, acetone-d6) d 6.58 (br s, 1H), 5.41 (s, 1H), 5.35 (s, 1H), 4.71 (AB q, J=18.4 Hz, 2H), 3.61 (d, J=6.8 Hz, 1H), 3.51 (d, J=6.8 Hz, 1H), 13C NMR (75 MHz, acetone-d6) d 172.1, 172.0, 147.4, 133.6, 128.9, 84.1, 83.5, 51.0 49.7, 43.0; IR (Nujol) 2210, 2135, 1850, 1780, 1760 cm-1; MS m/e 237, 209, 179, 139, 98, 81 (base), 53.

reactant | 3-(Isothiocyanatomethyl)furan | 4.734 mmol, 0.659 g | N(=C=S)CC1=COC=C1 | C6H5NOS
reactant | maleic anhydride | 4.844 mmol, 0.475 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | ether | 17 mL | CCOCC | C4H10O
product | 4-isothiocyanatophthalic anhydride | N(=C=S)C=1C=C2C(C(=O)OC2=O)=CC1 | C9H3NO3S
